US05804585
C. N-(4-chloro-3-methyl-5-isoxazolyl)-2-ethylthieno[2,3-b]-pyridine-3-sulfonamide
To a mixture of NaH (38 mg, 1.6 mmoles) in THF (5 ml) at ambient temperature was added 4-chloro-3-methyl-5-amino isoxazole (84 mg, 0.63 mmoles). The mixture was stirred 1 hr. at ambient temperature then cooled to 0° C. followed by the addition of 2-ethylthieno[2,3-b]pyridine-3-sulfonyl chloride (0.19 g, 0.73 mmoles) via cannula in THF (2 ml). The cooling bath was removed and the brown mixture was stirred 1 hr. at ambient temperature and then diluted with 3% NaOH (50 ml) and washed with CHCl3 (2×75 ml). The aqueous layer was acidified to pH 4 using concentrated HCl, upon which a precipitate formed. The aqueous phase was extracted with EtOAc (50 ml), and the organic layer was dried (MgSO4), filtered and concentrated to collect 0.23 g of a yellow oil. Recrystallization from EtOAc/hexanes provided 0.18g (79%) of the title compound as a light yellow solid, m.p. 152°-154° C.

reactant | NaH | 1.6 mmoles, 38 mg | [H-].[Na+]
reactant | 4-chloro-3-methyl-5-amino isoxazole | 0.63 mmoles, 84 mg | ClC=1C(=NOC1N)C | C4H5ClN2O
reactant | 2-ethylthieno[2,3-b]pyridine-3-sulfonyl chloride | 0.73 mmoles, 0.19 g | C(C)C1=C(C=2C(=NC=CC2)S1)S(=O)(=O)Cl | C9H8ClNO2S2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-(4-chloro-3-methyl-5-isoxazolyl)-2-ethylthieno[2,3-b]-pyridine-3-sulfonamide | 0.18g, 79% | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC2=NC=CC=C21)CC)C | C13H12ClN3O3S2
